US06939885B2
Synthesis of 3-{4-[4-Chloro-2-(2-methyl-pyridine-3-carbonyl)-phenylsulfamoyl]-phenyl}-propionic acid methyl ester
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2 amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)methanone and 3-(4-Chlorosulfonyl-phenyl)-propionic acid methyl ester and purified by HPLC. 1H-NMR (CDCl3) δ 10.75 (br s, 1H, NH), 8.64 (dm, 1H, J=4.8 Hz), 7.79 (dd, 1H, J=9.2 Hz, J=1.1 Hz), 7.75 (d, 2H, J=7.3 Hz), 7.49 (dm, 1H, J=9.2 Hz), 7.1-7.3 (m, 5H), 3.65 (s, 3H), 2.97 (t, 2H, J=7.6 Hz), 2.61 (t, 2H, J=7.6 Hz), 2.35 (s, 3H). MS: m/z 473 (M+1).

reactant | (2 amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C | C13H11ClN2O
reactant | 3-(4-Chlorosulfonyl-phenyl)-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO4S
product | 3-{4-[4-Chloro-2-(2-methyl-pyridine-3-carbonyl)-phenylsulfamoyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)S(NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C)(=O)=O)=O | C23H21ClN2O5S
